US07576108B2
b: (E)-3-Cyclopentyl-2-[4-(pyridin-3-ylmethylsulfanyl)-phenyl]-acrylic acid ethyl ester
Following the method of example 6a, reaction of potassium acetate (1.1 g, 10.7 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (1 g, 3.9 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (0.28 g, 0.35 mmol) and 3-(4-bromo-phenylsulfanylmethyl)-pyridine (1 g, 3.6 mmol) in DMF (8.9 ml), stirred for 2.5 h at 80° C., and addition of (Z)-2-bromo-3-cyclopentyl-acrylic acid ethyl ester (1.8 g, 7.1 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (0.14 g, 0.18 mmol) and 2 M aqueous sodium carbonate solution (8.9 ml), stirred at 80° C. over night affords the title compound as a yellow oil (0.8 g). MS (m/e): 368 (M+H).

reactant | potassium acetate | 10.7 mmol, 1.1 g | C(C)(=O)[O-].[K+]
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 3.9 mmol, 1 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 3-(4-bromo-phenylsulfanylmethyl)-pyridine | 3.6 mmol, 1 g | BrC1=CC=C(C=C1)SCC=1C=NC=CC1 | C12H10BrNS
reactant | (Z)-2-bromo-3-cyclopentyl-acrylic acid ethyl ester | 7.1 mmol, 1.8 g | C(C)OC(/C(=C/C1CCCC1)/Br)=O | C10H15BrO2
reactant | sodium carbonate | 2 M, 8.9 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 8.9 ml | CN(C)C=O | C3H7NO
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.35 mmol, 0.28 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.18 mmol, 0.14 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (E)-3-Cyclopentyl-2-[4-(pyridin-3-ylmethylsulfanyl)-phenyl]-acrylic acid ethyl ester | 0.8 g | C(C)OC(\C(=C\C1CCCC1)\C1=CC=C(C=C1)SCC=1C=NC=CC1)=O | C22H25NO2S
